Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
SOB, new HF
 
Major Surgical or Invasive Procedure:
Cardiac Cath
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ year old male with DM2, smoking history, hyperlipidemia and 
PVD who presented to ___ on ___ with acute 
shortness of breath. Found to be in a new rapid afib by EMS and 
was hypoxic. CXR showed bilateral infiltrates and CHF. Was 
started on nebulizers, steroids and IV Levaquin.  He was felt to 
have a combination of COPD exacerbation and rapid AF resulting 
in a CHF exacerbation, acute coronary syndrome and possible 
pneumonia. WBC was 25.1 on admission.  Echo demonstrated a new 
low EF of 35% and moderate to severe mitral insufficiency. 
Troponin trend of 0.055>10.300 on ___ at 645am.  BNP was >3000 
___ at 643 am. He converted to sinus rhythm ___. He is 
currently on a heparin gtt.  IV Vancomycin added to Levaquin now 
for question of pneumonia.  Patient is afebrile and blood 
cultures have been negative x 2. Wbc on ___ is 14. Currently on 
RA with o2 sats 96% ra. Lungs sound dim.  Has been diuresed with 
IV Lasix. Has not had any chest pain and is wearing nitro  
paste.

At baseline he endorses shortness of breath with 10 to 15 
minutes, of exertion.  

Vitals on transfer:  hr 101 sinus tachy, temp at 515 98.4, rr 
24, bp 144/85, o2 sat 96% r/a
Ht:  5 feet 8 inches
Wt: 130 lbs

REVIEW OF SYSTEMS:  
Negative except as indicated above.
 
Past Medical History:
PAST MEDICAL HISTORY:  
=====================
1. CARDIAC RISK FACTORS  
- NIDDM Diabetes II with complications  
- Smoking history
- Dyslipidemia 
 
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- Peripheral vascular disease - claudication (no procedures) 
- "wheezing during allergy season"
- Subclavian steal syndrome - low BPs on left upper extremity. 
- osteoporosis 
- inguinal hernia
- diverticulosis
 
 
Social History:
___
Family History:
FAMILY HISTORY:
================  
Has family history of CAD. 2 brother's suffered myocardial 
infarction, one passed away at ___. Living brother has congenital 
heart disease, peripheral vascular disease, and pacemaker 
implantation. 

 
Physical Exam:
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of *** cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
___ 10:16PM   GLUCOSE-162* UREA N-21* CREAT-1.1 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-97 TOTAL CO2-24 ANION GAP-17*
___ 10:16PM   estGFR-Using this
___ 10:16PM   CK-MB-5 cTropnT-0.31*
___ 10:16PM   CALCIUM-9.8 MAGNESIUM-2.1
___ 10:16PM   WBC-12.7* RBC-4.72 HGB-12.3* HCT-39.2* MCV-83 
MCH-26.1 MCHC-31.4* RDW-15.0 RDWSD-45.6
___ 10:16PM   PLT COUNT-214
___ 10:16PM   ___ PTT-60.9* ___
___ 06:35AM BLOOD WBC-10.8* RBC-4.54* Hgb-12.4* Hct-38.2* 
MCV-84 MCH-27.3 MCHC-32.5 RDW-15.1 RDWSD-46.5* Plt ___
___ 06:20AM BLOOD WBC-10.6* RBC-4.63 Hgb-12.5* Hct-38.8* 
MCV-84 MCH-27.0 MCHC-32.2 RDW-15.1 RDWSD-46.0 Plt ___
___ 03:04AM BLOOD WBC-13.6* RBC-4.71 Hgb-12.7* Hct-39.2* 
MCV-83 MCH-27.0 MCHC-32.4 RDW-15.2 RDWSD-46.3 Plt ___
___ 10:16PM BLOOD WBC-12.7* RBC-4.72 Hgb-12.3* Hct-39.2* 
MCV-83 MCH-26.1 MCHC-31.4* RDW-15.0 RDWSD-45.6 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD ___
___ 02:50PM BLOOD PTT-43.7*
___ 06:20AM BLOOD Plt ___
___ 10:30AM BLOOD PTT-37.8*
___ 03:04AM BLOOD Plt ___
___ 03:04AM BLOOD ___ PTT-59.6* ___
___ 10:16PM BLOOD Plt ___
___ 10:16PM BLOOD ___ PTT-60.9* ___
___ 06:35AM BLOOD Glucose-116* UreaN-31* Creat-1.0 Na-141 
K-3.7 Cl-103 HCO3-24 AnGap-14
___ 06:20AM BLOOD Glucose-150* UreaN-28* Creat-1.0 Na-140 
K-4.0 Cl-102 HCO3-25 AnGap-13
___ 03:04AM BLOOD Glucose-158* UreaN-20 Creat-1.1 Na-139 
K-3.9 Cl-94* HCO3-26 AnGap-19*
___ 10:16PM BLOOD Glucose-162* UreaN-21* Creat-1.1 Na-138 
K-3.7 Cl-97 HCO3-24 AnGap-17*
___ 10:16PM BLOOD estGFR-Using this
___ 06:20AM BLOOD ALT-24 AST-22 LD(LDH)-230 AlkPhos-58 
TotBili-0.9
___ 03:04AM BLOOD CK-MB-5 cTropnT-0.30*
___ 10:16PM BLOOD CK-MB-5 cTropnT-0.31*
___ 06:20AM BLOOD TotProt-6.2* Calcium-9.5 Phos-2.6* Mg-2.4 
Iron-35*
___ 03:04AM BLOOD Mg-2.2
___ 10:16PM BLOOD Calcium-9.8 Mg-2.1
___ 06:20AM BLOOD calTIBC-290 Ferritn-299 TRF-223
___ 06:20AM BLOOD PEP-AWAITING F ___ FreeLam-15.3 
Fr K/L-1.1 IFE-PND
___ 06:20AM BLOOD HIV Ab-NEG
___ 06:20AM BLOOD
___ 06:35AM BLOOD
___ 06:20AM BLOOD
___ 03:04AM BLOOD
___ 10:16PM BLOOD
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with DM2, smoking history, 
hyperlipidemia and PVD who presented to ___ on ___ 
with acute shortness of breath ___F, new CHF 
exacerbation, and NSTEMI.

#New systolic HF, non-ischemic.
Echocardiograms in the hospital demonstrated an ejection 
fraction of 35% and 30%. Prior to transfer, he was diuresed with 
20mg IV boluses of lasix. His initial BNP was elevated to > 
3000. He was treated for ACS (discussed below), and cardiac 
catheterization revealed distal LCX disease, but otherwise, no 
ischemic disease to account for the degree of HF, consistent 
with non-ischemic cardiomyopathy. TSH normal, HIV negative, 
ferritin normal, SPEP/UPEP negative. Possible etiology could be 
tachy-myopathy from AFwRVR (discussed below). However, remained 
in sinus during entire hospitalization at ___, and repeat 
echocardiogram while in sinus rhythm revealed EF 30%. He was 
started on metoprolol and ACE-I.

#NSTEMI, type II
Patient initially presented with chest pain and a troponin bump 
to 10.3 at OSH. Arrived on heparin gtt and nitro paste. Given 
new HF, there was concern for type I NSTEMI, so he was taken for 
cardiac cath. Cardiac cath revealed 80% lesion in distal LCX, 
which was not intervened upon, and which did not account for 
degree of HF (discussed above). It was likely type II NSTEMI in 
setting of AFwRVR and HF exacerbation. He was started on aspirin 
and beta blocker, and continued on statin.

#Atrial fibrillation with RVR
Presented to OSH with acute onset AFwRVR. He was given 
metoprolol and diuresed, and was in sinus rhythm at time of 
transfer. He was kept on heparin gtt, and then transitioned to 
apixaban for anticoagulation.

#Mitral regurgitation, functional
At OSH, TTE revealed mod-severe MR. ___, this was in setting 
of Afib and volume overload. Repeat TTE in normal sinus rhythm 
and euvolemia revealed mild-moderate MR.

#COPD
Received a course of steroids at ___ for possible 
exacerbation. This was discontinued at ___. Was continued on 
singulair 10mg qpm and albuterol.

#PVD
Following catheterization via the right femoral area he 
developed a cold right lower limb. Pulses were difficult to 
palpate but were detected on Doppler by vascular surgery. 
Arterial study was done and revealed bilateral SFA and tibial 
disease. Patient is requesting a follow up with a vascular 
surgeon regarding his peripheral vascular disease and is 
provided the phone number.

#Subclavian steal syndrome
Has history of subclavian steal syndrome. During 
catheterization, R groin access was used and contrast was 
injected revealing complete occlusion of the subclavian artery.

=====================
TRANSITIONAL ISSUES
=====================
[ ] Recommend follow up electrolytes at appointment on ___ 
given that the patient is newly started on lisinopril.
[ ] New diagnosis of non-ischemic cardiomyopathy and AFwRVR - 
plan for follow up with cardiology.
[ ] Euvolemic on discharge, no diuretic given. Continue to 
monitor weight and volume status and add diuretic if needed.
[ ] Continue to titrate lisinopril to blood pressure and 
metoprolol to HR in ___.
[ ] Patient requests follow up with vascular surgeron regarding 
his peripheral artery disease and may be amenable to surgery 
(reports he previously declined).
[ ] Continue to discuss smoking cessation (patient requested 
nicotine patches at discharge).
[ ] Patient has significant weight loss and should undergo any 
age-appropriate cancer screening that he has not yet received 
(ie lung CT, colonoscopy, etc).

#NEW MEDS: 
- ASA 81
- lisinopril 20 qd
- metoprolol XL 100 qd
- nicotine patch
- atorvastatin 80mg qd

#CHANGED MEDS: none
#DICONTINUED MEDS: none

Discharge weight: 57.9 kg
Discharge creatinine: 1
Code status: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob;wheezing 
2. MetFORMIN (Glucophage) 500 mg PO DAILY DM II 
3. Simvastatin 40 mg PO QPM CAD 
4. Vitamin D 1000 UNIT PO DAILY 
5. Calcium Carbonate 500 mg PO DINNER 
6. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 ___ patch on skin every 24 hours 
Disp #*28 Patch Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob;wheezing  
8.  Calcium Carbonate 500 mg PO DINNER  
9.  Fish Oil (Omega 3) 1000 mg PO BID  
10.  MetFORMIN (Glucophage) 500 mg PO DAILY DM II  
11.  Simvastatin 40 mg PO QPM CAD  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: new systolic heart failure
Secondary: atrial fibrillation with rapid ventricular response, 
type II NSTEMI

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You were in the hospital because your heart went into a rhythm 
known as atrial fibrillation. You also had new heart failure 
(poor pumping function of the heart).

WHAT HAPPENED IN THE HOSPITAL?
==============================
You had a cardiac catheterization, which showed you did not have 
a big blockage in the artery to your heart. You did not have a 
heart attack. You also had an echocardiogram that showed that 
your heart wasn't pumping well (heart failure). We put you on 
medications to help with this. You also had an abnormal heart 
rhythm (atrial fibrillation). We put you on a blood thinner to 
prevent stroke that be caused by the abnormal heart rhythm.

WHAT SHOULD I DO WHEN I GO HOME?
================================
Your medications and appointments are below. Please take your 
medications every day. We recommend that you stop smoking. 
Please weigh yourself daily and call your doctor if you have 
>5lb weight gain in 1 week or >3lb weight gain in 1 day.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___